US07501518B2
To a 0° C. solution of [1-(2-nitro-benzenesulfonyl)-azetidin-3-yl]-methanol (165 mg, 0.606 mmol) in EtOAc (15 mL) was added Et3N (0.101 mL, 0.727 mmol) then mesyl chloride (0.052 mL, 0.666 mmol). The reaction mixture was stirred for 1 hour at room temperature. The precipitate was filtered through a plug of Celite and was washed with EtOAc. The filtrate was concentrated and the crude mesylate was dissolved in DMF (5 mL). To this solution was added DIPEA (0.211 mL, 1.20 mmol) and 3,3′-dimethyl-1′,2′,3′4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine (162 mg, 0.606 mmol) and the mixture was heated at 80° C. for 17 hours. Saturated NaHCO3 (15 mL) was added and the mixture was extracted with CH2Cl2 (3×30 mL). The combined organic extracts were dried (MgSO4), filtered and concentrated. The crude material was purified by radial chromatography on silica gel (Et2O saturated with NH4OH) to give 3,3′-dimethyl-1′-[1-(2-nitro-benzenesulfonyl)-azetidin-3-ylmethyl]-1′,2′,3′4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine (168 mg, 53%).

reactant | [1-(2-nitro-benzenesulfonyl)-azetidin-3-yl]-methanol | 0.606 mmol, 165 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N1CC(C1)CO | C10H12N2O5S
reactant | Et3N | 0.727 mmol, 0.101 mL | CCN(CC)CC | C6H15N
reactant | mesyl chloride | 0.666 mmol, 0.052 mL | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | DIPEA | 1.20 mmol, 0.211 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3,3′-dimethyl-1′,2′,3′4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine | 0.606 mmol, 162 mg | CC=1C(=NC=CC1)C1NC(CCC1C)C1=NC=CC=C1 | C17H21N3
reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | 3,3′-dimethyl-1′-[1-(2-nitro-benzenesulfonyl)-azetidin-3-ylmethyl]-1′,2′,3′4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine | 168 mg, 53% | CC=1C(=NC=CC1)C1N(C(CCC1C)C1=NC=CC=C1)CC1CN(C1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C27H31N5O4S
